* C:\users\cwoodall\My Documents\classes\spring2013\EC412\project\hardware\sims\ExponentialSource\ExponentialSource_BJT.asc
Q1 N002 N007 N009 0 2N3904
Q2 N004 N008 N009 0 2N3904
V2 N005 0 PWL(0 8 10ms 1)
R1 VCC N002 1000k
XU1 N013 N002 VCC 0 N011 LM358
R6 N009 N011 1k
V3 VCC 0 9
R3 N006 N005 100k
R9 N006 N008 1.5k
R10 N007 N006 1k
Q5 Vout N003 N001 0 2N3906
R18 Vout N010 1k
R19 VCC N001 10
R2 N003 N004 1k
C3 N011 N002 100pF
V1 N013 0 4.5
V4 N008 0 4.5
D1 N010 N012 D
D2 N012 0 D
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 10ms
.lib LM358.sub
.backanno
.end
