* Z:\Users\cwoodall\Wine Files\drive_c\Program Files\LTC\LTspiceIV\VoltageControlledAmplifer_JFETasc.asc
J1 N001 VCV N003 2N5566
J2 N002 N003 N003 2N5566
R1 N002 VIN 10k
R2 N001 VIN 10k
R3 N003 N002 30k
R4 VOUT N001 30k
V1 VIN 0 SINE(4.5 200mV 1000Hz)
V2 VCV 0 {VCONTROL}
V3 VCC 0 9V
XU1 N002 N001 VCC 0 VOUT LT1630
C1 VOUT 0 10pF
R5 VOUT 0 1000k
R6 0 N003 330
R7 N003 VCC 330
.model NJF NJF
.model PJF PJF
.lib Z:\Users\cwoodall\Wine Files\drive_c\Program Files\LTC\LTspiceIV\lib\cmp\standard.jft
.tran 20ms
.step PARAM VCONTROL 0 9 .25
.MEAS x pp v(vout)
.MEAS y pp v(vin)
.MEAS GAIN PARAM {x/y}
.lib LTC.lib
.backanno
.end
