* C:\users\cwoodall\My Documents\classes\spring2013\EC412\project\hardware\sims\VoltageControlledAmplifier_Transconductive\VoltageControlledAmplifier_Transconductive.asc
XU1 Envelope N010 VCC 0 N012 LM358
R2 N011 0 1000k
Q1 N008 N013 N011 0 2N3904
V1 Envelope 0 PWL(0 0 1s 9)
V2 VCC 0 9V
Q2 N002 Input N007 0 2N3904
Q3 N004 N005 N009 0 2N3904
R3 VCC N002 50k
R4 VCC N004 50k
R5 N003 N004 100k
R6 N006 N003 100k
R7 N001 OUT 100k
R8 N002 N001 100k
XU2 N003 N001 VCC 0 OUT LM358
V3 Input 0 PWL repeat for 1000 (+2ms 4.4) (+2ms 4.6) endrepeat
R9 N013 N012 100
R12 N005 0 10k
R13 VCC N005 10k
R16 OUT 0 100k
R1 N011 N010 10k
C1 N005 0 10µF
C2 VCC N005 10µF
C3 N007 Input 100p
C4 N005 N009 100p
V4 N006 0 4.5V
R10 N008 N007 5k
R11 N008 N009 5k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 1s
.lib LM358.sub
;op
;tran 1s
;dc V3 0 9 .1
;step V1 0 4.5 .5
* Use MPQ3904 for NPNs
.backanno
.end
