* C:\users\cwoodall\My Documents\classes\spring2013\EC412\project\hardware\sims\VoltageControlledOscillator\VoltageControlledOscillator.asc
V1 VCC 0 9V
R1 VCC N006 100k
R2 N006 0 100k
R4 OUT2 N006 50k
R5 N001 IN 10k
R6 N004 IN 10k
R7 0 N004 10k
R8 N007 N001 5k
V2 IN 0 PWL(0 4.5 100ms 4.5)
C1 OUT N001 .05µ V=50 Irms=10.158 Rser=1 Lser=0
XU1 N004 N001 VCC 0 OUT LM358
XU2 N006 OUT VCC 0 OUT2 LM358
M1 N007 OUT2 0 0 IRF510
R3 N005 OUT2 3300k
R9 0 N005 200k
XU3 N005 N002 VCC 0 N002 LM358
C2 N003 N002 10µF
R10 VCC N003 10k
R11 N003 0 10k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 100ms
;step lin param V 0 9 .5
.measure TRAN t1 when V(out)=4.5V cross 10
.measure TRAN t2 when V(out)=4.5V cross 12
.measure TRAN freq1 PARAM { 1/(t2-t1) }
.lib 2N7000.sub
.lib LM358.sub
.backanno
.end
