* C:\users\cwoodall\My Documents\classes\spring2013\EC412\project\hardware\sims\VoltageControlledOscillator\VoltageControlledOscillator_CURRENTSRC.asc
V1 N001 0 9V
R1 N001 N004 100k
R2 N004 0 100k
R4 OUT2 N004 50k
R5 N002 IN 10k
R6 N003 IN 4.9k
R7 0 N003 4.9k
V2 IN 0 PWL(0 0 2ms 2)
C1 OUT N002 .05µ V=50 Irms=10.158 Rser=1 Lser=0
XU3 N005 OUT2 N007 2N7000
XU1 N003 N002 N001 0 OUT lm358
XU2 N004 OUT N001 0 OUT2 LM358
Q1 N006 N006 0 0 NPN
Q2 N007 N006 0 0 NPN
R3 N006 N001 10k
R8 N002 N005 5k
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 100ms
;step lin param V 0 9 .5
.measure TRAN t1 when V(out)=4.5V cross 10
.measure TRAN t2 when V(out)=4.5V cross 12
.measure TRAN freq1 PARAM { 1/(t2-t1) }
.lib 2N7000.sub
.lib LM358.sub
.backanno
.end
